US05606051
d) 3-Acetyl-5-ethyl-1-methylpyrazole
N-Methoxy-N-methyl-5-ethyl-1-methylpyrazole-3-carboxamide (2.9 g) in dry tetrahydrofuran (100 ml), under argon was cooled to -20 ° C. and treated with methylmagnesium bromide (9.8 ml of a 3M solution in ether). A precipitate was initially formed that re-dissolved on complete addition. The reaction mixture was stirred at 0° C. for 2 h. and then poured into saturated ammonium chloride. The aqueous phase was extracted with ethyl acetate and the combined organic phases washed with brine, dried over anhydrous magnesium sulphate and concentrated to a brown oil. The crude product was purified by silica gel chromatography eluting with 50% ethyl acetate/hexane to give the title compound as a pale brown oil, (1.97 g, 88%); (Found: M+, 152.0950. C8H12N2O requires M 152.0950); nmax (CH2Cl2) 1693. 1472, 1376 and 1352 cm-1 ; dH (CDCl3) 1.28 (3H, t, J7.4 Hz), 2.54 (3H, s), 2.61 (2H, q, J7.4 Hz), 3.84 (3H, s) and 6.56 (1H, s).

reactant | N-Methoxy-N-methyl-5-ethyl-1-methylpyrazole-3-carboxamide | 2.9 g | CON(C(=O)C1=NN(C(=C1)CC)C)C | C9H15N3O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-Acetyl-5-ethyl-1-methylpyrazole | 1.97 g, 88% | C(C)(=O)C1=NN(C(=C1)CC)C | C8H12N2O
